US05716624
(a) Preparation of 5,6,7,8-tetrahydro-5,5,8,8--tetramethyl-2-trimethysilylethynylnaphthalene
Following the basic procedure of Example 1(a), by reacting 26.7 g (0.1 mol) of 2-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene with 20 g (0.204 mol) of trimethylsilylacetylene, 18.8 g (66%) of the expected compound were obtained in the form of a colorless oil.

reactant | 2-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 0.1 mol, 26.7 g | BrC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C14H19Br
reactant | trimethylsilylacetylene | 0.204 mol, 20 g | C[Si](C)(C)C#C | C5H10Si
product | 5,6,7,8-tetrahydro-5,5,8,8--tetramethyl-2-trimethysilylethynylnaphthalene | 18.8 g, 66% | CC1(C=2C=CC=C(C2C(CC1)(C)C)C#C[Si](C)(C)C)C | C19H28Si
